US06476045B2
6-Chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine
2-Bromo-1-(4-chlorophenyl)ethanone (9.08 g, 39 mmol) was added to a solution of 5-chloro-2-pyridinamine (5.0 g, 39 mmol) in dimethylformamide (100 mL) and the mixture was heated under reflux for 20 h. The mixture was cooled and poured into water (400 mL) and the solid was collected. The solid was dissolved in dichloromethane (300 mL), washed with water (50 mL) and brine (50 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was recrystallised from ethanol/water and the solid was collected and dried in vacuo to give the title compound (0.9 g, 9%). 1H NMR (360 MHz, CDCl3) δ 8.17 (1H, d, J 2.0 Hz), 7.87 (2H, d, J 8.9 Hz), 7.81 (1H, s), 7.56 (1H, d, J 9.5 Hz), 7.41 (2H, d, J 8.9 Hz), and 7.16 (1H, dd, J 9.5, 2.0 Hz). n/z (ES+) 263, 265 (M+1).

reactant | 2-Bromo-1-(4-chlorophenyl)ethanone | 39 mmol, 9.08 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 5-chloro-2-pyridinamine | 39 mmol, 5.0 g | ClC=1C=CC(=NC1)N | C5H5ClN2
reactant | water | 400 mL | O | H2O
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 6-Chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine | 0.9 g, 9% | ClC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)Cl | C13H8Cl2N2
